US04486589
2-(1-Chloroethyl)benzenesulfonamide
A solution of ammonia (1.2 ml) in tetrahydrofuran (100 ml) at -70° was contacted rapidly with a solution of 2-(1-chloroethyl)benzenesulfonyl chloride (4.32 g, 18.1 mmol) in tetrahydrofuran (50 ml). The stirred mixture was allowed to warm to 0° and volatiles were removed under reduced pressure. The residue was taken up in ethyl acetate and washed with a small volume of water and brine. The dried (MgSO4) solution was evaporated to give 4.7 g of off white solid which was recrystallized from chloroform to give 3.13 g, m.p. 121°-122°. 1H nmr δ(CD3)2COTMS 8.25-7.30 (m), 6.93 (brds), 6.25 (q, J=7 Hz), 3.17 (s), 1.98 (d, J=7 Hz).

reactant | ammonia | 1.2 ml | N | H3N
reactant | 2-(1-chloroethyl)benzenesulfonyl chloride | 18.1 mmol, 4.32 g | ClC(C)C1=C(C=CC=C1)S(=O)(=O)Cl | C8H8Cl2O2S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(1-Chloroethyl)benzenesulfonamide | ClC(C)C1=C(C=CC=C1)S(=O)(=O)N | C8H10ClNO2S
